US07417040B2
To a stirred solution of N-(5-Bromo-2-iodo-benzyl)-N-(4-chloro-2-vinyl-phenyl)-acetamide (0.55 g, 1.5 mmol) and Et3N (0.63 mL, 4.5 mmol) in DMF (25 mL) was added PdCl2 (40 mg, 0.23 mmol) and the reaction was heated to 60° C. When the reaction was complete by HPLC the mixture was poured into H2O and extracted with Et2O. The Et2O layer was washed with H2O (2×20mL) and brine (20 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue obtained was purified by flash chromatography eluting with CH2Cl2 to give 1-(8-Bromo-2-chloro-6H-dibenzo[b,f]azocin-5-yl)-ethanone (0.24 g, 60%).

reactant | N-(5-Bromo-2-iodo-benzyl)-N-(4-chloro-2-vinyl-phenyl)-acetamide | 1.5 mmol, 0.55 g | BrC=1C=CC(=C(CN(C(C)=O)C2=C(C=C(C=C2)Cl)C=C)C1)I | C17H14BrClINO
reactant | Et3N | 4.5 mmol, 0.63 mL | CCN(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2 | 0.23 mmol, 40 mg | Cl[Pd]Cl
product | 1-(8-Bromo-2-chloro-6H-dibenzo[b,f]azocin-5-yl)-ethanone | 0.24 g, 60% | BrC1=CC2=C(C=CC3=C(N(C2)C(C)=O)C=CC(=C3)Cl)C=C1 | C17H13BrClNO
